US07655801B2
Hexyl-carbamic acid 1-benzyl-1, 2, 3, 4-tetrahydro-quinolin-6-yl ester (2 h)
Mixture of 1-benzyl-1,2,3,4-tetrahydro-quinolin-6-ol (0.239 g., 1 mmol), hexyl isocyanate (0.174 ml, 1.2 mmol) and triethylamine (1 ml) in dry chloroform (10 ml) was heated with stirring for 48 hours. The reaction mixture was cooled, washed with water (2×5 ml), dried over sodium sulphate and concentrated under vaccum. The residue so obtained was chromatographed with 20:80 chloroform:hexane as eluant to give 2 h; yield. 0.25 g. (68.3%).

reactant | 1-benzyl-1,2,3,4-tetrahydro-quinolin-6-ol | 1 mmol, 0.239 g | C(C1=CC=CC=C1)N1CCCC2=CC(=CC=C12)O | C16H17NO
reactant | hexyl isocyanate | 1.2 mmol, 0.174 ml | C(CCCCC)N=C=O | C7H13NO
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Hexyl-carbamic acid 1-benzyl-1, 2, 3, 4-tetrahydro-quinolin-6-yl ester | C(C1=CC=CC=C1)N1CCCC2=CC(=CC=C12)OC(NCCCCCC)=O | C23H30N2O2
